2157-12-31 10:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2157-12-30**] 11:17 PM
 MULTI LUMEN - START [**2157-12-30**] 11:17 PM
 PAN CULTURE - At [**2157-12-31**] 12:01 AM
 INVASIVE VENTILATION - START [**2157-12-31**] 12:01 AM
   intubated from OSH at 22:30.
 EKG - At [**2157-12-31**] 12:30 AM
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2157-12-31**] 12:00 AM
   Vancomycin - [**2157-12-31**] 07:55 AM
   Metronidazole - [**2157-12-31**] 10:10 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-12-30**] 11:59 PM
   Fentanyl - [**2157-12-31**] 04:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-12-31**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 91 (88 - 119) bpm
   BP: 141/76(102) {116/57(83) - 157/78(113)} mmHg
   RR: 17 (9 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    868 mL
                                                                  8,247 mL
   PO:
             TF:
   IVF:
                                                                    868 mL
                                                                  3,247 mL
   Blood products:
   Total out:
                                                                  1,287 mL
                                                                    925 mL
   Urine:
                                                                    160 mL
                                                                    925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -419 mL
                                                                  7,322 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 427 (423 - 481) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: 7.44/27/95.[**Numeric Identifier 218**]/18/-3
   Ve: 9.4 L/min
   PaO2 / FiO2: 238
   Physical Examination
   PHYSICAL EXAM
   GENERAL: intubated, sedated
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**]. No JVD.
   LUNGS: CTAB anteriorly, good air movement bilaterally.
   ABDOMEN: NABS. Soft, slight distension.  Involuntary guarding. No HSM
   EXTREMITIES: trace pedal edema, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: bilateral antecubital erythema and skin break on right.
   NEURO: intubated sedated, not following commands.  Withdraws all four
   extremities to pain
   Labs / Radiology
   201 K/uL
   11.1 g/dL
   88 mg/dL
   0.4 mg/dL
   18 mEq/L
   4.0 mEq/L
   15 mg/dL
   111 mEq/L
   136 mEq/L
   34.3 %
   34.6 K/uL
        [image002.jpg]
                             [**2157-12-30**]  10:31 PM
                             [**2157-12-30**]  11:04 PM
                             [**2157-12-31**]  04:56 AM
   WBC
   31.4
   34.6
   Hct
   33.3
   34.3
   Plt
   174
   201
   Cr
   0.6
   0.4
   TropT
   <0.01
   TCO2
   19
   Glucose
   119
   119
   88
   Other labs: PT / PTT / INR:15.9/38.5/1.4, CK / CKMB /
   Troponin-T:60/4/<0.01, ALT / AST:288/164, Alk Phos / T Bili:183/2.2,
   Amylase / Lipase:45/16, Differential-Neuts:96.8 %, Lymph:1.5 %,
   Mono:1.4 %, Eos:0.1 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL,
   LDH:165 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 12663**] is a 87 yo female with PMH of meningioma and seizure
   disorder who presented to [**Hospital6 5579**] on [**2157-12-29**] with sepsis.
   .
   #. sepsis: cholangitis vs urosepsis are most likely sources.  She is
   growing GNRs in her blood from the OSH and GNR lactose fermenters in
   her urine (ecoli, klebsiella, enterobacter). She could have urosepsis
   or cholangitis with seeding of urine. On levo, ceftaz, flagyl which
   will cover most GI/uro sources.  Bili is not overwhelmingly elevated,
   calling cholangitis as the source into question, and her elevated LFTs
   could be from shock with initial hypotension.  However, her elevated
   pancreatic enzymes, while could be [**1-17**] shock, seem to more strongly
   indicate a biliary obstructive picture.  Given mental status and
   instrumentation, CNS source is possible, though GNRs in blood and urine
   make it a less likely source.  LP may be risky in patient with large
   meningiona with midline shift.  Must also keep in mind the possibility
   of her seeding her intracranial hardware when bacteremic.  WBC down to
   34 here.
   - cont vanco/zosyn/flagyl
   - narrow abx as culture data and clinical status allows
   - ercp following and planning on ERCP in the AM
   - IVF and monitor hemodynamics
   - BCx, UCx, Sputum Cx
   - f/u OSH speciation and sensitivities
   .
   #. respiratory failure: was reportedly intubated for respiratory
   protection in the setting of mental status changes.  She is oxygenating
   well on PSV with minimal support.  Latest gas 7.44/27/95/19. Will
   likely be able to extubate after ERCP.
   - cont PSV at 15/5 for tonight
   - wean O2 as tolerated
   - hold sedation and wean ventilation as tolerated following ERCP
   .
   #. CEs: Given low peak troponin and setting, likely is demand
   ischemia.  However, an event while hypotensive is possible.
   Heparinizing her would be risky at this time given upcoming ERCP,
   expecially with trop trending down.
   - ekg now
   - continue to follow
   .
   #. seizure disorder: There are notes indicated increased seizure
   acitivity in the weeks preceeding this event.  Her imaging is felt
   stable from [**2153**].  EEG did not show seizure.  She was initiated on
   keppra at [**Hospital3 140**].
   - continue keppra
   .
   #. Elevated INR: nutrition/vit K deficiency vs. underlying liver
   abnormality vs antibiotic effect.
   - follow
   .
   #. Meningioma: baseline per [**Hospital3 140**] radiology.
   .
   #. AMS: presumably related to infection, though seizure could have been
   involved.  Currently withdrawing all extremities.
   - wean sedation after ERCP and assess mental status.
   - consider involving neurosurg if persistant altered mental status,
   however would need high suspicion to tap shunt
   .
   FEN: NPO, reassess if extubated
   .
   PPX:
   -DVT ppx with pneumoboots, SCH as recommended after ERCP
   -Bowel regimen
   -Pain management
   .
   ACCESS: femoral CVL, A-line  (will need to D/C vs. resite depending on
   status postERCP)
   .
   CODE STATUS: Presumed full
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2157-12-30**] 11:17 PM
   Multi Lumen - [**2157-12-30**] 11:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I have examined the patient, reviewe her history and labs and was
   present for the key portion of the services provided. I agree with Dr
   [**Last Name (STitle) 803**]
s note above and her plan of care.  The patient is intubated due
   to hypotension from GNR sepsis. The origin of the sepsis is either
   urosepsis or cholangitis, with certain clinical elements favoring
   each.  ERCP shows no CBD obstruction, and stent placed.  Pt remains on
   broad spectrum antibiotics and is now off pressors and vent status
   shows good ABG
s on only a low level of PSV.  The limiting factor now
   is the patient
s mental status
 she
s still rather unresponsive,
   though seems improving now that Fentanyl is off. She needs to have OSH
   right femoral lines removed today, whether she is extubated or not, and
   the latter will depend on how much she wakes up.  Family visited today.
   (45min spent in management of this critically ill pt)
   [**Name (NI) 1620**] [**Name (NI) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2157-12-31**] 13:40 ------

2158-01-01 07:54:00 Physician Resident Progress Note
Chief Complaint: sepsis
   24 Hour Events:
 ERCP - At [**2157-12-31**] 08:58 AM
 MULTI LUMEN - START [**2157-12-31**] 10:27 PM
 MULTI LUMEN - STOP [**2158-1-1**] 12:41 AM
 ARTERIAL LINE - STOP [**2158-1-1**] 12:44 AM
   - ERCP -> no evidence of cholangitis/biliary obstruction
   - continued on vanc/zosyn/flagyl empirically
   - [**2157-12-29**] at OSH -> 100,000 pan-sensitive E. coli in urine, blood cx
   speciation still pending
   - plan to place right IJ, remove fem lines
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2157-12-31**] 08:04 PM
   Metronidazole - [**2158-1-1**] 02:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-1-1**] 06:02 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2157-12-31**] 10:23 PM
   Pantoprazole (Protonix) - [**2158-1-1**] 12:54 AM
   Other medications:
   Changes to medical and family history:
   sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2158-1-1**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 78 (78 - 116) bpm
   BP: 106/52(65) {99/52(63) - 117/67(79)} mmHg
   RR: 17 (9 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  9,126 mL
                                                                    388 mL
   PO:
             TF:
   IVF:
                                                                  4,126 mL
                                                                    388 mL
   Blood products:
   Total out:
                                                                  1,895 mL
                                                                    635 mL
   Urine:
                                                                  1,895 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,231 mL
                                                                   -247 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 376 (337 - 507) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.47/28/121/23/-1
   Ve: 7.7 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: Well nourished, No acute distress, elderly
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: prior craniotomy
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   147 K/uL
   9.5 g/dL
   89 mg/dL
   0.3 mg/dL
   23 mEq/L
   3.2 mEq/L
   10 mg/dL
   109 mEq/L
   138 mEq/L
   28.0 %
   19.5 K/uL
        [image002.jpg]
                             [**2157-12-30**]  10:31 PM
                             [**2157-12-30**]  11:04 PM
                             [**2157-12-31**]  04:56 AM
                             [**2157-12-31**]  02:23 PM
                             [**2158-1-1**]  04:10 AM
   WBC
   31.4
   34.6
   19.5
   Hct
   33.3
   34.3
   28.0
   Plt
   174
   201
   147
   Cr
   0.6
   0.4
   0.3
   TropT
   <0.01
   TCO2
   19
   21
   Glucose
   119
   119
   88
   89
   Other labs: PT / PTT / INR:13.7/30.6/1.2, CK / CKMB /
   Troponin-T:60/4/<0.01, ALT / AST:288/164, Alk Phos / T Bili:183/2.2,
   Amylase / Lipase:45/16, Differential-Neuts:96.8 %, Lymph:1.5 %,
   Mono:1.4 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL,
   LDH:165 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:1.3 mg/dL
   Imaging: A small zenker's diverticulum was found after examination with
   a gastroscope.
   Successful intubation of the esophagus with a duodenoscope over a
   guidewire and with direct visual laryngoscopy. duodenoscope.
   The major papilla appeared prominent and was bludging.
   A single non-bleeding periampullary diverticulum with small opening was
   found at the major papilla.
   Cannulation of the biliary duct was performed with a sphincterotome
   after a guidewire was placed. Contrast medium was injected resulting in
   complete opacification.
   A moderate diffuse dilation was seen at the main duct with the CBD
   measuring 13-14 mm. There were no filling defects or strictures seen.
   A sphincterotomy was performed in the 12 o'clock position using a
   sphincterotome over an existing guidewire. Dark, clear bile drainined
   from the common bile duct after the sphincterotomy was performed. There
   was no sludge or pus seen.
   A 7cm by 10FR plastic biliary stent was placed successfully with
   excellent drainage of dark, clear bile after it was placed.
   Recommendations: The findings of the ERCP are consistent with biliary
   obstruction, but not cholangitis. Her obstruction may be due to
   papillary stenosis or a periampullary lesion. This could first be
   evaluated with MRCP as an outpatient.
   She will need a repeat ERCP in [**3-21**] weeks for stent removal and possible
   sphincterotomy.
   Microbiology: culture data (-)/pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan
   Ms. [**Known lastname 12663**] is a 87 yo female with PMH of meningioma and seizure
   disorder who presented to [**Hospital6 5579**] on [**2157-12-29**] with sepsis.
   .
   #. sepsis: cholangitis vs urosepsis are most likely sources.  She is
   growing GNRs in her blood from the OSH and GNR lactose fermenters in
   her urine (ecoli, klebsiella, enterobacter). She could have urosepsis
   or cholangitis with seeding of urine. On levo, ceftaz, flagyl which
   will cover most GI/uro sources.  Bili is not overwhelmingly elevated,
   calling cholangitis as the source into question, and her elevated LFTs
   could be from shock with initial hypotension.  However, her elevated
   pancreatic enzymes, while could be [**1-17**] shock, seem to more strongly
   indicate a biliary obstructive picture.  Given mental status and
   instrumentation, CNS source is possible, though GNRs in blood and urine
   make it a less likely source.  LP may be risky in patient with large
   meningiona with midline shift.  Must also keep in mind the possibility
   of her seeding her intracranial hardware when bacteremic.  WBC down to
   19.5.  Etiology appears most likely to be urine.
   - convert vanco/zosyn/flagyl -> cipro given pan-sensitive E. coli
   bacteremia and Klebsiella bacteremia resistant only to ampicillin
   - plan for f/u ERCP in [**3-21**] weeks
   - IVF and monitor hemodynamics
   - BCx, UCx, Sputum Cx -> f/u
   - f/u OSH speciation and sensitivities
   .
   #. respiratory failure: was reportedly intubated for respiratory
   protection in the setting of mental status changes.  She is oxygenating
   well on PSV with minimal support.  Latest gas 7.44/27/95/19. Will
   likely be able to extubate after ERCP.
   - cont PSV at 15/5 for today, will attempt extubation as mental status
   clears
   - wean O2 as tolerated
   - hold sedation and wean ventilation as tolerated following ERCP
   .
   # mental status: ? keppra vs. seizure vs. recent
   sepsis/hospitalization.  Will eval possible keppra toxicity, consider
   imaging/further eval tomorrow if no improvement.
   .
   #. CEs: Given low peak troponin and setting, likely is demand
   ischemia.  However, an event while hypotensive is possible.
   Heparinizing her would be risky at this time given upcoming ERCP,
   expecially with trop trending down.
   -  stop trend
   .
   #. seizure disorder: There are notes indicated increased seizure
   acitivity in the weeks preceeding this event.  Her imaging is felt
   stable from [**2153**].  EEG did not show seizure.  She was initiated on
   keppra at [**Hospital3 140**].
   - continue keppra
   .
   #. Elevated INR: nutrition/vit K deficiency vs. underlying liver
   abnormality vs antibiotic effect.
   - follow
   .
   #. Meningioma: baseline per [**Hospital3 140**] radiology.
   .
   FEN: NPO, reassess if extubated
   .
   PPX:
   -DVT ppx with pneumoboots, SCH
   -Bowel regimen
   -Pain management
   - pantoprazole
   .
   ACCESS: right IJ, A-line .
   CODE STATUS: full
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-12-31**] 10:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDUING ADDENDUM
   On this day I examined Dr [**Known lastname 12663**] and was present for the key portions
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 9827**]
s note and
   agree with his findings and plan of care.  I have also spoken with the
   pt
s daughter.
   The patient remains hemodynamically stable and her blood cultures show
   EColi and Klebsiella, only the EColi of which was also cultured in the
   urine.  Though the ERCP showed not evidence of cholangitis, it did show
   biliary obstruction to the extent a stent was placed.  This, along with
   elevated amylase and LFT
s make me believe her sepsis could be both
   biliary and urosepsis.  The plan is to convert antibiotics to Cipro
   which should cover both organisms.
   Her resp status is stable and if it weren
t for her obtundation, she
   be ready to extubate.  The main diff dx of her obtundation is anoxic
   encephalopathy, sedation from Keppra, electrical status, seeding of her
   VP shunt, etc.  If she
s no better in 24 hr I would pursue a vigorous
   neuro assessment.
   35 min spent in the care of this critically ill patient
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2158-1-1**] 15:20 ------

2158-01-02 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - Blood Cx from [**Hospital3 140**] grew back klebsiella
   resistant to amp, and pan-sensitive e.coli, urine growing E. coli. -
   started Cipro which ID thought was good.
   - switched kepra back to home tegretol
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2158-1-1**] 08:13 AM
   Metronidazole - [**2158-1-1**] 10:02 AM
   Ciprofloxacin - [**2158-1-1**] 12:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-1-2**] 05:31 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-1-1**] 03:56 PM
   Heparin Sodium - [**2158-1-2**] 07:21 AM
   Other medications:
   Changes to medical and family history: daughter states that patient has
   baseline low BP (90s). Of note, she was not having increased seizures
   prior to admission.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-1-2**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 99 (72 - 112) bpm
   BP: 106/60(71) {90/44(56) - 120/60(71)} mmHg
   RR: 17 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,093 mL
                                                                    562 mL
   PO:
             TF:
                                                                     72 mL
                                                                     73 mL
   IVF:
                                                                  1,841 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                    695 mL
   Urine:
                                                                  1,510 mL
                                                                    695 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    583 mL
                                                                   -133 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 383 (340 - 383) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 5.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, elderly, awake
   and alert, following commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: prior craniotomy
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: bronchial breathsounds at bases, no rales/rhonchi
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, moves all extremities
   Labs / Radiology
   126 K/uL
   8.8 g/dL
   81 mg/dL
   0.3 mg/dL
   24 mEq/L
   3.0 mEq/L
   10 mg/dL
   111 mEq/L
   141 mEq/L
   26.6 %
   11.7 K/uL
        [image002.jpg]
                             [**2157-12-30**]  10:31 PM
                             [**2157-12-30**]  11:04 PM
                             [**2157-12-31**]  04:56 AM
                             [**2157-12-31**]  02:23 PM
                             [**2158-1-1**]  04:10 AM
                             [**2158-1-2**]  03:03 AM
   WBC
   31.4
   34.6
   19.5
   11.7
   Hct
   33.3
   34.3
   28.0
   26.6
   Plt
   174
   201
   147
   126
   Cr
   0.6
   0.4
   0.3
   0.3
   TropT
   <0.01
   TCO2
   19
   21
   Glucose
   119
   119
   88
   89
   81
   Other labs: PT / PTT / INR:13.7/30.6/1.2
   ALT / AST:104/26, Alk Phos / T Bili:143/1.3,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   CXR: bilateral pleural effusions
   Assessment and Plan
   Ms. [**Known lastname 12663**] is a 87 yo female with PMH of meningioma and seizure
   disorder who presented to [**Hospital6 5579**] on [**2157-12-29**] with sepsis.
   .
   #. sepsis: cholangitis vs urosepsis are most likely sources.  OSH
   cultures show 2 different organisms in blood, Klebsiella and E. coli,
   suggesting both urinary and biliary sources leading to bacteremia. All
   cx sensitive to cipro.
   - cont cipro given pan-sensitive E. coli bacteremia and Klebsiella
   bacteremia resistant only to ampicillin
   - plan for f/u ERCP in [**3-21**] weeks for stent removal and possible
   sphincterotomy
   - IVF and monitor hemodynamics
   .
   #. respiratory failure: was reportedly intubated for respiratory
   protection in the setting of mental status changes.  She is oxygenating
   well on PSV with minimal support.  Remained intubated [**1-17**] mental status
   which is now improved. Also has e/o volume overload on CXR with pleural
   effusions, but they are small and patient is doing well on [**4-19**].
   - consider gentle diuresis, goal 500-1000cc neg today
   - 10 IV Lasix now
   - attempt extubation today
   .
   # altered mental status: ? keppra vs. seizure vs. recent
   sepsis/hospitalization.  Head CT stable, EEG neg. [**Name (NI) 12705**], pt improved
   significantly with D/C Keppra. Sepsis may have also contributed, as
   well as sedation in setting of elevated liver enzymes.
   - switched keppra back to prior longstanding home regimen of tegretol
   .
   #. Decreased HCT and PLT: may be dilutional since all lines decreased.
   Otherwise may be med-related given multiple abx tried over past few
   weeks.
   - trend [**Hospital1 7**]
   - transfuse for Hct<21
   .
   #. CEs: Given low peak troponin and setting, likely is demand
   ischemia.  Trended down to normal.
   ..
   #. Elevated INR: nutrition/vit K deficiency vs. underlying liver
   abnormality vs antibiotic effect.
   - follow, improving
   .
   #. Meningioma: baseline per [**Hospital3 140**] radiology.
   .
   FEN: NPO, reassess if extubated
   .
   PPX:
   - SCH
   -Bowel regimen
   -Pain management
   - pantoprazole
   .
   ACCESS: right IJ, A-line .
   CODE STATUS: full
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-12-31**] 10:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   On this day I examined Dr [**Known lastname 12663**] and was present for the key portions
   of the services provided. I have also spoken with her daughter.  I have
   read Dr [**Last Name (STitle) 803**]
s note above and agree with her findings and plan of
   care.
   The patient has had a dramatic improvement in mentation and today is
   awake and following commands. We think this is likely due to stopping
   Keppra which had been newly started at MtAuburn.  She is back on her
   prior Tegretol.
   Her vent status was excellent on PSV 5/5 and low RSBI despite here
   effusions on CXR and exam. We thus elected to extubate her and so far
   she is doing well.  We will try to gradually diurese away her pleural
   effusions with IV lasix, aiming for .5 to 1 liter neg daily.
   40 min spent in the care of this critically ill pt
   [**Name (NI) 1620**] [**Name (NI) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2158-1-2**] 14:55 ------

2158-01-03 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2158-1-2**] 12:08 PM
   intubated from OSH at 22:30.
   - extubated
   - mental status improved, but likely not at baseline (alert,
   responsive, but not verbal)
   - responded well to 10 IV Lasix
   - unable to take PO's so missed 1 dose tegretol, will need to address
   if MS not improved, S&S c/s ordered
   - mild respiratory distress overnight- slightly more tachy 110s and
   hypertensive 160s, RR 20s with some accessory muscle use, however ABG
   and CXR looked good, had been producing lots of thick sputum she was
   unable to cough up, and nasotracheal suction helped
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2158-1-1**] 08:13 AM
   Metronidazole - [**2158-1-1**] 10:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-1-2**] 05:31 AM
   Ciprofloxacin - [**2158-1-3**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2158-1-2**] 07:21 AM
   Furosemide (Lasix) - [**2158-1-2**] 11:52 AM
   Pantoprazole (Protonix) - [**2158-1-3**] 01:00 AM
   Heparin Sodium (Prophylaxis) - [**2158-1-3**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   denies dyspnea, c/o abdominal pain, unable to describe further
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2158-1-3**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 78 (77 - 110) bpm
   BP: 126/60(75) {95/50(60) - 164/90(107)} mmHg
   RR: 17 (13 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,653 mL
                                                                    280 mL
   PO:
                                                                     60 mL
             TF:
                                                                     73 mL
   IVF:
                                                                  1,331 mL
                                                                    280 mL
   Blood products:
   Total out:
                                                                  3,365 mL
                                                                    500 mL
   Urine:
                                                                  3,365 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,712 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   RR (Spontaneous): 18
   FiO2: 66%
   SpO2: 97%
   ABG: 7.43/40/59/28/1
   Physical Examination
   General Appearance: No acute distress, elderly
   Head, Ears, Nose, Throat: s/p craniotomy
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   156 K/uL
   9.6 g/dL
   86 mg/dL
   0.3 mg/dL
   28 mEq/L
   3.4 mEq/L
   9 mg/dL
   109 mEq/L
   144 mEq/L
   28.2 %
   10.9 K/uL
        [image002.jpg]
                             [**2157-12-30**]  10:31 PM
                             [**2157-12-30**]  11:04 PM
                             [**2157-12-31**]  04:56 AM
                             [**2157-12-31**]  02:23 PM
                             [**2158-1-1**]  04:10 AM
                             [**2158-1-2**]  03:03 AM
                             [**2158-1-2**]  04:54 PM
                             [**2158-1-2**]  06:22 PM
                             [**2158-1-2**]  10:39 PM
                             [**2158-1-3**]  04:49 AM
   WBC
   31.4
   34.6
   19.5
   11.7
   13.4
   10.9
   Hct
   33.3
   34.3
   28.0
   26.6
   30.3
   28.2
   Plt
   174
   201
   147
   126
   151
   156
   Cr
   0.6
   0.4
   0.3
   0.3
   0.4
   0.3
   TropT
   <0.01
   TCO2
   19
   21
   27
   Glucose
   119
   119
   88
   89
   81
   87
   86
   Other labs: PT / PTT / INR:13.7/30.6/1.2, CK / CKMB /
   Troponin-T:60/4/<0.01, ALT / AST:104/26, Alk Phos / T Bili:143/1.3,
   Amylase / Lipase:45/16, Differential-Neuts:96.8 %, Lymph:1.5 %,
   Mono:1.4 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL,
   LDH:145 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Microbiology: [**Hospital1 19**] culture data (-) to date
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Assessment and Plan
   Ms. [**Known lastname 12663**] is a 87 yo female with PMH of meningioma and seizure
   disorder who presented to [**Hospital6 5579**] on [**2157-12-29**] with sepsis.
   .
   #. Sepsis: cholangitis vs urosepsis are most likely sources.  OSH
   cultures show 2 different organisms in blood, Klebsiella and E. coli,
   suggesting both urinary and biliary sources leading to bacteremia. All
   cx sensitive to cipro.
   - cont cipro given pan-sensitive E. coli bacteremia and Klebsiella
   bacteremia resistant only to ampicillin, today day [**2-22**]
   - plan for f/u ERCP in [**3-21**] weeks for stent removal and possible
   sphincterotomy
   - IVF and monitor hemodynamics
   .
   #. Respiratory failure: was reportedly intubated for respiratory
   protection in the setting of mental status changes.  She is oxygenating
   well on PSV with minimal support.  Remained intubated [**1-17**] mental status
   which is now improved. Also has e/o volume overload on CXR with pleural
   effusions, but they are small.  Pt successfully extubated yesterday,
   nearly re-intubated overnight given copious secretions.
   - TBB goal (-) one to two liters, via lasix 10 mg IV PRN
   .
   # Altered mental status: ? keppra vs. seizure vs. recent
   sepsis/hospitalization.  Head CT stable, EEG neg. [**Name (NI) 12705**], pt improved
   significantly with D/C Keppra. Sepsis may have also contributed, as
   well as sedation in setting of elevated liver enzymes.  Patient
   continues to be somnolent with limited verbal communication.
   - switched keppra back to prior longstanding home regimen of tegretol,
   d/w pharm re: Keppra IV dosing equivalent to home tegretol
   - cont to have difficulty taking POs, will consider placement of NG
   tube today, as pt failed S/S today
   .
   #. Decreased HCT and PLT: may be dilutional since all lines decreased.
   Otherwise may be med-related given multiple abx tried over past few
   weeks.  Now stabilized.
   - trend daily
   - transfuse for Hct<21
   .
   #. CEs: Given low peak troponin and setting, likely is demand
   ischemia.  Trended down to normal.
   ..
   #. Elevated INR: nutrition/vit K deficiency vs. underlying liver
   abnormality vs antibiotic effect.  Resolved.
   .
   #. Meningioma: baseline per [**Hospital3 140**] radiology.
   .
   FEN:   goal TBB (-) one liter, replete lytes, Speech and swallow eval
   today -> failed, will make NPO, discuss NG tube with pt, daughter
   .
   PPX:
   - SCH
   -Bowel regimen
   -Pain management
   - pantoprazole
   .
   ACCESS: right IJ, A-line .
   CODE STATUS: full
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-12-31**] 10:27 PM
   Prophylaxis:
   DVT:   SC heparin, SCDs
   Stress ulcer:   pantoprazole
   VAP:    ciprofloxacin
   Comments:
   Communication:  Comments:
   Code status:   full code
   Disposition:  [**Hospital Unit Name 1**]

2158-01-03 10:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday.  Remains extubated.
   Remains with copious respiratory secretions, requires frequent
   suctioning.
   Experienced respiratory distress last PM, improved with vigorous
   suctioning.
   Mental status remains abnormal, limited responses (unclear baseline).
   Polish language better than English.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2158-1-1**] 08:13 AM
   Metronidazole - [**2158-1-1**] 10:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-1-2**] 05:31 AM
   Ciprofloxacin - [**2158-1-3**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2158-1-2**] 11:52 AM
   Pantoprazole (Protonix) - [**2158-1-3**] 01:00 AM
   Heparin Sodium (Prophylaxis) - [**2158-1-3**] 07:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-1-3**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 99 (78 - 110) bpm
   BP: 141/69(85) {95/50(60) - 164/90(107)} mmHg
   RR: 23 (13 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,653 mL
                                                                    410 mL
   PO:
                                                                     60 mL
             TF:
                                                                     73 mL
   IVF:
                                                                  1,331 mL
                                                                    410 mL
   Blood products:
   Total out:
                                                                  3,365 mL
                                                                  1,160 mL
   Urine:
                                                                  3,365 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,712 mL
                                                                   -751 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 97%
   ABG: 7.43/40/59/28/1
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.6 g/dL
   156 K/uL
   86 mg/dL
   0.3 mg/dL
   28 mEq/L
   3.4 mEq/L
   9 mg/dL
   109 mEq/L
   144 mEq/L
   28.2 %
   10.9 K/uL
        [image002.jpg]
                             [**2157-12-30**]  10:31 PM
                             [**2157-12-30**]  11:04 PM
                             [**2157-12-31**]  04:56 AM
                             [**2157-12-31**]  02:23 PM
                             [**2158-1-1**]  04:10 AM
                             [**2158-1-2**]  03:03 AM
                             [**2158-1-2**]  04:54 PM
                             [**2158-1-2**]  06:22 PM
                             [**2158-1-2**]  10:39 PM
                             [**2158-1-3**]  04:49 AM
   WBC
   31.4
   34.6
   19.5
   11.7
   13.4
   10.9
   Hct
   33.3
   34.3
   28.0
   26.6
   30.3
   28.2
   Plt
   174
   201
   147
   126
   151
   156
   Cr
   0.6
   0.4
   0.3
   0.3
   0.4
   0.3
   TropT
   <0.01
   TCO2
   19
   21
   27
   Glucose
   119
   119
   88
   89
   81
   87
   86
   Other labs: PT / PTT / INR:13.7/30.6/1.2, CK / CKMB /
   Troponin-T:60/4/<0.01, ALT / AST:104/26, Alk Phos / T Bili:143/1.3,
   Amylase / Lipase:45/16, Differential-Neuts:96.8 %, Lymph:1.5 %,
   Mono:1.4 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL,
   LDH:145 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   87 yof seizure disorder (meningioma), now with resolving sepsis.
   RESPIRATORY DISTRESS -- improved.  Attributed to sepsis and perhaps
   seizure (altered mental status).  Now with copious secretions.
   Underlying bilateral pleural effusions.  Monitor for evidence for VAP
   (extubated yesterday).  Maintain upright position, OOB if tolerates.
   SEPSIS -- attributed to urinary source.  Responded to current
   management.
   PLEURAL EFFUSIONS -- attributed to resussitation fluids.  Plan to allow
   net diuresis.
   SEIZURES -- h/o meningioma.  No active seizures.  Rx with tegretal
   prior to admission.
   FLUIDS -- s/p resussitation.  Plan to allow net diresis, to baseline
   weight.
   Altered mental status -- improved.  [**Month (only) 51**] be attributed to medications,
   perhaps sedating component of Kepra.  Also consider
   NUTRITIONAL SUPPORT -- NPO.  Plan  enteroflex tube placemnt to initiate
   TF.
   Daughter desires [**Name2 (NI) 951**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-12-31**] 10:27 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:   Family meeting with daughter.  Updated
   medical condition and answered all questions.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   ADDENDUM:
   Patient
s daughter (HCP) states that she does not want patient to be
   reintubated in the event of respiratory decompensation.  She
   understands that patient may expire if intubation not pursued in the
   context of respiratory failure.  Patient
s daughter states this is
   consistent with patient
s previously expressed wishes.   Also, no CPR.
   Will respect these wishes.  In the event of respiratory decompensation,
   will then focus on patient comfort as primary goal.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2158-1-3**] 16:19 ------

2158-01-04 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - held [**Last Name (LF) **], [**First Name3 (LF) **] PCP, [**Name10 (NameIs) **] has gone weeks without
   Tegretol at home, with risk/reward of restarting [**Name10 (NameIs) **] and possible
   sedation, decided to hold [**Name10 (NameIs) **]
   - now DNR/DNI
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2158-1-1**] 08:13 AM
   Metronidazole - [**2158-1-1**] 10:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-1-2**] 05:31 AM
   Ciprofloxacin - [**2158-1-4**] 12:10 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2158-1-3**] 04:28 PM
   Heparin Sodium (Prophylaxis) - [**2158-1-4**] 12:14 AM
   Pantoprazole (Protonix) - [**2158-1-4**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-1-4**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 90 (80 - 100) bpm
   BP: 139/68(81) {101/48(61) - 142/75(97)} mmHg
   RR: 19 (15 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.4 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                  1,301 mL
                                                                    282 mL
   PO:
             TF:
   IVF:
                                                                  1,301 mL
                                                                    282 mL
   Blood products:
   Total out:
                                                                  3,250 mL
                                                                    610 mL
   Urine:
                                                                  3,250 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,949 mL
                                                                   -329 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, elderly, awake and alert,
   following commands
   Head, Ears, Nose, Throat: s/p craniotomy
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows commands, responding by shaking head but
   not verbalizing or consistently responding. Strength 5/5 in LUE and
   LLE, [**2-17**] in right proximal upper and lower extremity, at least [**3-20**] in
   distal right extremities. Normal tone, no clonus, reflexes 2+
   throughout, L babinski downgoing, R equivocal. Unable to assess
   senation, coordiantion, gait.
   Labs / Radiology
   245 K/uL
   10.3 g/dL
   89 mg/dL
   0.3 mg/dL
   25 mEq/L
   3.4 mEq/L
   10 mg/dL
   106 mEq/L
   140 mEq/L
   30.4 %
   12.3 K/uL
        [image002.jpg]
                             [**2157-12-30**]  11:04 PM
                             [**2157-12-31**]  04:56 AM
                             [**2157-12-31**]  02:23 PM
                             [**2158-1-1**]  04:10 AM
                             [**2158-1-2**]  03:03 AM
                             [**2158-1-2**]  04:54 PM
                             [**2158-1-2**]  06:22 PM
                             [**2158-1-2**]  10:39 PM
                             [**2158-1-3**]  04:49 AM
                             [**2158-1-4**]  04:46 AM
   WBC
   34.6
   19.5
   11.7
   13.4
   10.9
   12.3
   Hct
   34.3
   28.0
   26.6
   30.3
   28.2
   30.4
   Plt
   [**Telephone/Fax (3) 12750**]51
   156
   245
   Cr
   0.4
   0.3
   0.3
   0.4
   0.3
   0.3
   TCO2
   19
   21
   27
   Glucose
   119
   88
   89
   81
   87
   86
   89
   Other labs: PT / PTT / INR:13.4/35.6/1.1, CK / CKMB /
   Troponin-T:60/4/<0.01, ALT / AST:66/28, Alk Phos / T Bili:224/1.0,
   Amylase / Lipase:45/16, Differential-Neuts:96.8 %, Lymph:1.5 %,
   Mono:1.4 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL,
   LDH:145 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 12663**] is a 87 yo female with PMH of meningioma and seizure
   disorder who presented to [**Hospital6 5579**] on [**2157-12-29**] with sepsis.
   .
   #. Sepsis: cholangitis vs urosepsis are most likely sources.  OSH
   cultures showed 2 different organisms in blood, Klebsiella and E. coli,
   suggesting both urinary and biliary sources leading to bacteremia. All
   cx sensitive to cipro. Repeat cx from here all neg. Slight increase WBC
   today may be concentration, no other sources of infection on CXR.
   - cont cipro given pan-sensitive E. coli bacteremia and Klebsiella
   bacteremia resistant only to ampicillin, today day [**3-25**] (6 of abx total
   since blood cx turned negative)
   - plan for f/u ERCP in [**3-21**] weeks for stent removal and possible
   sphincterotomy
   - trend LFTs until normalized, trending down
   - trend CBC
   .
   #. Respiratory failure: was reportedly intubated for respiratory
   protection in the setting of mental status changes.  Pt now extubated
   however mental status still not back to baseline and having thick
   secretions with marginal airway protection. Secretions clear with cough
   and deep suctioning, however pt having difficulty clearing on own. Did
   not pass S&S however daughter does not want any tubes. Also has
   bilateral pleural effusions. Diuresing well with no bump in BUN/Cr yet.
   - TBB goal (-) one to two liters, via lasix 10 mg IV PRN
   - NPO for now, S&S to reassess as mental status clears
   .
   # Altered mental status: ? [**Date Range **] vs. seizure vs. recent
   sepsis/hospitalization.  Head CT stable, EEG neg. [**Name (NI) 12705**], pt improved
   significantly with D/C [**Name (NI) 5122**]. Sepsis may have also contributed, as
   well as sedation in setting of elevated liver enzymes.  Patient now
   more alert and more interactive, but with limited verbal communication.
   - off AEDS due to inability to take PO
s, however pt was apparently off
   meds for several weeks without seizures, will hold for now
   .
   #. CEs: Given low peak troponin and setting, likely is demand
   ischemia.  Trended down to normal.
   ..
   #. Elevated INR: nutrition/vit K deficiency vs. underlying liver
   abnormality vs antibiotic effect.  Resolved.
   .
   #. Meningioma: baseline per [**Hospital3 140**] radiology.
   .
   FEN:   goal TBB (-) one liter, replete lytes, NPO
   .
   PPX:
   - SCH
   -Bowel regimen
   -Pain management
   - pantoprazole
   .
   ACCESS: right IJ
   CODE STATUS: DNR/DNI
   .
   DISPOSITION: call out
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-12-31**] 10:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2158-01-04 12:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Awake, alert.  Limited vocalization, although attempting to speak.
   Copious secretions, able to cough up.
   Up in chair.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-1-2**] 05:31 AM
   Ciprofloxacin - [**2158-1-4**] 12:10 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2158-1-3**] 04:28 PM
   Pantoprazole (Protonix) - [**2158-1-4**] 12:15 AM
   Heparin Sodium (Prophylaxis) - [**2158-1-4**] 07:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-1-4**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**59**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 91 (81 - 100) bpm
   BP: 129/66(80) {101/48(61) - 149/80(97)} mmHg
   RR: 19 (15 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54.4 kg (admission): 55 kg
   Height: 62 Inch
             Total In:
                                                                  1,301 mL
                                                                    500 mL
   PO:
             TF:
   IVF:
                                                                  1,301 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  3,250 mL
                                                                    960 mL
   Urine:
                                                                  3,250 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,949 mL
                                                                   -460 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic,
   Frail, but appears more comfortable today
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Flat
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal, Vocalization hoarse
   Labs / Radiology
   10.3 g/dL
   245 K/uL
   89 mg/dL
   0.3 mg/dL
   25 mEq/L
   3.4 mEq/L
   10 mg/dL
   106 mEq/L
   140 mEq/L
   30.4 %
   12.3 K/uL
        [image002.jpg]
                             [**2157-12-30**]  11:04 PM
                             [**2157-12-31**]  04:56 AM
                             [**2157-12-31**]  02:23 PM
                             [**2158-1-1**]  04:10 AM
                             [**2158-1-2**]  03:03 AM
                             [**2158-1-2**]  04:54 PM
                             [**2158-1-2**]  06:22 PM
                             [**2158-1-2**]  10:39 PM
                             [**2158-1-3**]  04:49 AM
                             [**2158-1-4**]  04:46 AM
   WBC
   34.6
   19.5
   11.7
   13.4
   10.9
   12.3
   Hct
   34.3
   28.0
   26.6
   30.3
   28.2
   30.4
   Plt
   [**Telephone/Fax (3) 12750**]51
   156
   245
   Cr
   0.4
   0.3
   0.3
   0.4
   0.3
   0.3
   TCO2
   19
   21
   27
   Glucose
   119
   88
   89
   81
   87
   86
   89
   Other labs: PT / PTT / INR:13.4/35.6/1.1, CK / CKMB /
   Troponin-T:60/4/<0.01, ALT / AST:66/28, Alk Phos / T Bili:224/1.0,
   Amylase / Lipase:45/16, Differential-Neuts:96.8 %, Lymph:1.5 %,
   Mono:1.4 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL,
   LDH:145 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   87 yof seizure disorder (meningioma), now with resolving sepsis.
   RESPIRATORY DISTRESS -- improved.  Attributed to sepsis and perhaps
   seizure (altered mental status).  Now with copious secretions.
   Underlying bilateral pleural effusions.  Monitor for evidence for VAP
   (extubated yesterday).  Maintain upright position, OOB if tolerates.
   SEPSIS -- attributed to urinary source.  Resolved, responded to current
   management.
   PLEURAL EFFUSIONS -- attributed to resussitation fluids.  Plan to allow
   net diuresis.
   HYPOKALEMIA
 replete to >4.0
   SEIZURES -- h/o meningioma.  No active seizures.  Rx with tegretal
   prior to admission.
   FLUIDS -- s/p resussitation.  Plan to allow net diresis, to baseline
   weight.
   ALTERED MENTAL STATUS  -- improved.  [**Month (only) 51**] be attributed to medications,
   perhaps sedating component of Kepra.  Also consider
   NUTRITIONAL SUPPORT -- NPO.  Plan speech/swallow evaluation -->
   consider TF (enteroflex tube) if fails evaluation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-12-31**] 10:27 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 45 minutes